US07939533B2
c) (R)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(3-hydroxymethyl-morpholin-4-yl)-pyridin-3-yl]-N-methyl-isobutyramide
A mixture of 0.30 g (0.56 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide, 0.17 g (0.73 mmol) (S)-3-(tert-butyl-dimethyl-silanyloxymethyl)-morpholine, 0.01 g (0.03 mmol) cetyltrimethylammonium bromide, 0.029 g (0.056 mmol) bis(tri-t-butylphosphine)palladium(0), 0.07 ml NaOH 50% and 3 ml toluene was degassed by two freeze-thaw cycles. The reaction mixture was heated under argon at 90° C. for 3 h. After cooling to room temperature the mixture was diluted with water and extracted with three portions of toluene. The combined organic layers were dried over sodium sulphate and concentrated in vacuo. The residue was dissolved in a mixture of 10 ml methanol and 0.5 ml concentrated aqueous hydrochloric acid solution. After stirring at room temperature for 90 min. the reaction mixture was neutralized with 0.5 M aqueous sodium hydroxide solution and extracted with three portions of tert-butyl methyl ether. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. Flash column chromatography gave 0.10 g (30%) of the title compound as an off-white solid.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide | 0.56 mmol, 0.30 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)Cl)(C)C)(F)F | C25H20ClF7N2O
reactant | (S)-3-(tert-butyl-dimethyl-silanyloxymethyl)-morpholine | 0.73 mmol, 0.17 g | C(C)(C)(C)[SiH2]OC([C@H]1NCCOC1)(C)C | C11H25NO2Si
reactant | NaOH | 0.07 ml | [OH-].[Na+]
catalyst | cetyltrimethylammonium bromide | 0.03 mmol, 0.01 g | [Br-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
catalyst | bis(tri-t-butylphosphine)palladium(0) | 0.056 mmol, 0.029 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(3-hydroxymethyl-morpholin-4-yl)-pyridin-3-yl]-N-methyl-isobutyramide | 0.10 g, 30% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1[C@@H](COCC1)CO)(C)C)(F)F | C30H30F7N3O3
